US08084623B2
To a stirred solution of 2-(4-bromo-2-chloro-phenyl)-1,1,1,3,3,3-hexamethyl-disilazane (0.484 g, 1.38 mmol) in ether (14 mL) at −78° C. and under nitrogen was added tert-butyllithium (2.03 mL, 1.43 M solution in pentanes, 2.91 mmol) dropwise. After 90 minutes, a solution of 2-butyl-2-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.353 g, 1.38 mmol) in ether (3 mL) was added to the reaction mixture dropwise. After one hour, the reaction mixture was warmed to ambient temperature and stirred at ambient temperature for 30 minutes. The reaction mixture was quenched by the addition of saturated aqueous NH4Cl (10 mL) and extracted with EtOAc. The combined extracts were washed with brine, then dried (MgSO4), filtered, and concentrated in vacuo to an oil (0.75 g). Purification by chromatography (silica, 5-20% EtOAc in hexanes) gave 2-butyl-2-{[3-chloro-4-(1,1,1,3,3,3-hexamethyl-disilazan-2-yl)-phenyl]-hydroxy-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester (0.357 g, 0.678 mmol, 49%) as a colourless oil.

reactant | 2-(4-bromo-2-chloro-phenyl)-1,1,1,3,3,3-hexamethyl-disilazane | 1.38 mmol, 0.484 g | BrC1=CC(=C(C=C1)N([Si](C)(C)C)[Si](C)(C)C)Cl | C12H21BrClNSi2
reactant | tert-butyllithium | 2.91 mmol, 1.43 M, 2.03 mL | C(C)(C)(C)[Li]
reactant | 2-butyl-2-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.38 mmol, 0.353 g | C(C)(C)(C)OC(=O)N1C(CCC1)(C=O)CCCC | C14H25NO3
solvent | ether | 14 mL | CCOCC | C4H10O
solvent | ether | 3 mL | CCOCC | C4H10O
product | 2-butyl-2-{[3-chloro-4-(1,1,1,3,3,3-hexamethyl-disilazan-2-yl)-phenyl]-hydroxy-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.678 mmol, 0.357 g, 49% | C(C)(C)(C)OC(=O)N1C(CCC1)(C(O)C1=CC(=C(C=C1)N([Si](C)(C)C)[Si](C)(C)C)Cl)CCCC | C26H47ClN2O3Si2
